US09376426B2
3.3 2.59 g (9.14 mmol) of 5-bromo-2-(3-chloromethylphenyl)pyrimidine and 2.84 g (8.70 mmol) of caesium carbonate are added to a suspension of 1.64 g (8.70 mmol) of 6-phenoxy-2H-pyridazin-3-one in 17.5 ml of DMF, and the mixture is stirred at room temperature for 18 hours. Water is added to the reaction mixture. The precipitate formed is filtered off with suction, washed with water and dried in vacuo, giving 2-[3-(5-bromopyrimidin-2-yl)benzyl]-6-phenoxy-2H-pyridazin-3-one as colourless crystals; ESI 435, 437.

reactant | 5-bromo-2-(3-chloromethylphenyl)pyrimidine | BrC=1C=NC(=NC1)C1=CC(=CC=C1)CCl | C11H8BrClN2
reactant | caesium carbonate | 8.70 mmol, 2.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 6-phenoxy-2H-pyridazin-3-one | 8.70 mmol, 1.64 g | O(C1=CC=CC=C1)C=1C=CC(NN1)=O | C10H8N2O2
reactant | Water | O | H2O
solvent | DMF | 17.5 ml | CN(C)C=O | C3H7NO
product | 2-[3-(5-bromopyrimidin-2-yl)benzyl]-6-phenoxy-2H-pyridazin-3-one | BrC=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)OC2=CC=CC=C2)C=CC1 | C21H15BrN4O2
